US07887824B2
To 2.18 ml of chlorosulfonyl isocyanate in 10 ml of dichloromethane is added dropwise, at 0° C., a solution of 1.77 ml of bromoethanol in 10 ml of dichloromethane. The reaction medium is stirred for 10 minutes at 0° C. and then added dropwise to a solution of 4.38 grams of bis(trimethylsilyl)methylamine and 3.51 ml of triethylamine in 40 ml of dichloromethane at 0° C. After warming to 20° C. and stirring for 4 hours, the reaction mixture is cooled to 0° C. and 10.5 ml of triethylamine are then added dropwise. The reaction mixture is then stirred overnight at room temperature. It is then diluted with dichloromethane and washed 3 times with dilute hydrochloric acid. The organic phase is then washed once with saturated aqueous NaCl solution and then dried over sodium sulfate and concentrated under reduced pressure to give a white solid, 2-oxooxazolidine-3-sulfonic acid [bis(trimethylsilanyl)methyl]amide (65% yield).

reactant | chlorosulfonyl isocyanate | 2.18 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | bromoethanol | 1.77 ml | BrC(C)O | C2H5BrO
reactant | bis(trimethylsilyl)methylamine | 4.38 grams | C[Si](C)(C)C([Si](C)(C)C)N | C7H21NSi2
reactant | triethylamine | 3.51 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 10.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-oxooxazolidine-3-sulfonic acid [bis(trimethylsilanyl)methyl]amide | 65% yield | C[Si](C)(C)C([Si](C)(C)C)NS(=O)(=O)N1C(OCC1)=O | C10H24N2O4SSi2
